US07473794B2
0.1 g of L-alanine methyl ester hydrochloride (0.7 mmol), 0.2 g of N-acetyl-L-phenylalanine (1 mmol) and 0.55 ml of N-methylmorpholine (5 mmol) are dissolved in 50 ml of dichloromethane and cooled to −10° C. 0.5 g of CPA from example 1 (50% in CH2Cl2; 0.8 mmol) is added slowly, and the mixture is stirred under cold conditions for 3 h and at room temperature for 72 h. The solution is concentrated by evaporation and extracted with ethyl acetate and 1 N HCl solution, sat. NaHCO3, sat. NaCl and dist. water. The organic phase is dried over magnesium sulfate, filtered off and concentrated by evaporation. 0.18 g of the white N-acetyl-L-phenylalaninyl-L-alanine methyl ester is obtained (88%).

reactant | L-alanine methyl ester hydrochloride | 0.7 mmol, 0.1 g | Cl.COC([C@@H](N)C)=O
reactant | N-acetyl-L-phenylalanine | 1 mmol, 0.2 g | C(C)(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C11H13NO3
reactant | N-methylmorpholine | 5 mmol, 0.55 ml | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-acetyl-L-phenylalaninyl-L-alanine methyl ester | 0.18 g | COC([C@@H](NC([C@@H](NC(C)=O)CC1=CC=CC=C1)=O)C)=O | C15H20N2O4
